US05008277
N-[[[2-[1-(3,4-Dichlorophenyl)-2,2,2-trifluoroethyoxy]pyridin-5-yl]amino]carbonyl]-2,6-difluorobenzamide
A stirred mixture of 2,6-difluorobenzamide (0.56 g, 0.0036 mole), oxalyl chloride (0.45 g, 0.0036 mole), and methylene chloride (10 ml) in toluene (70 ml) was heated at reflux for three hours. Approximately 10 ml of solvent was removed by distillation under reduced pressure. A solution of 5-amino-2-[1-(3,4-dichlorophenyl)-2,2,2-trifluoroethoxy]pyridine (1.2 g, 0.0036 mole) in toluene (35 ml) was added to the reaction mixture. The resultant solution was stirred at room temperarture for approximately 18 hours. Most of the solvent was evaporated under reduced pressure, leaving a liquid residue. About 150 ml of n-heptane was added to the residue, and the mixture was stirred at room temperature, slowly forming a precipitate. The mixture was cooled in dry ice before collecting the precipitate by filtration. A total of 1.65 g of N-[[[2-[-1-(3,4-dichlorophenyl)2,2,2-trifluoroethoxy]pyridin-5-yl]amino]carbonyl]2,6-difluorobenzamide was collected (mp 171°-172° C.). The nmr and ir spectra were consistent with the proposed structure.

reactant | 2,6-difluorobenzamide | 0.0036 mole, 0.56 g | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
reactant | oxalyl chloride | 0.0036 mole, 0.45 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 5-amino-2-[1-(3,4-dichlorophenyl)-2,2,2-trifluoroethoxy]pyridine | 0.0036 mole, 1.2 g | NC=1C=CC(=NC1)OC(C(F)(F)F)C1=CC(=C(C=C1)Cl)Cl | C13H9Cl2F3N2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | dry ice | C(=O)=O | CO2
solvent | n-heptane | 150 ml | CCCCCCC | C7H16
product | N-[[[2-[1-(3,4-Dichlorophenyl)-2,2,2-trifluoroethyoxy]pyridin-5-yl]amino]carbonyl]-2,6-difluorobenzamide | ClC=1C=C(C=CC1Cl)C(C(F)(F)F)OC1=NC=C(C=C1)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C21H12Cl2F5N3O3
